US05134128
4-[1-Acetoxy-6-(2-pyridyl)hexyl]-2-trimethylsilylfuran
tert-Butyl lithium (a 1.7M solution in pentane; 2.4 ml, 4.14 mmol) was added dropwise to a solution of 2-(5-bromopentyl)pyridine (472.3 mg, 2.07 mmol) in tetrahydrofuran (7 ml) at -78° under argon. After 1 hour, a solution of 5-trimethylsilyl-3-furaldehyde (348 mg, 2.07 mmol) in tetrahydrofuran (1 ml) was added, followed by acetic anhydride (0.59 ml, 6.21 mmol) after 2 hours. The mixture was allowed to warm to room temperature and quenched with water (after 22 hours). Extraction (ethyl ether) and evaporation of the dried (magnesium sulphate) extracts gave an oil, which was flash chromatographed on silica using 40% ethyl acetate/hexane. Fractions with Rf of about 0.25 on evaporation gave the title silyfuran as a light brown oil.

reactant | tert-Butyl lithium | C(C)(C)(C)[Li]
reactant | 2-(5-bromopentyl)pyridine | 2.07 mmol, 472.3 mg | BrCCCCCC1=NC=CC=C1 | C10H14BrN
reactant | 5-trimethylsilyl-3-furaldehyde | 2.07 mmol, 348 mg | C[Si](C1=CC(=CO1)C=O)(C)C | C8H12O2Si
reactant | acetic anhydride | 6.21 mmol, 0.59 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-[1-Acetoxy-6-(2-pyridyl)hexyl]-2-trimethylsilylfuran | C(C)(=O)OC(CCCCCC1=NC=CC=C1)C=1C=C(OC1)[Si](C)(C)C | C20H29NO3Si
